US04296114
1-(4-Chlorophenyl)-1,2-dihydro-3-phenoxyquinoxalin-2-one
A mixture of sodium hydride (0.65 g), "15-crown-5" (1,4,7,10,13-pentaoxacyclopentadecane) (0.5 ml), phenol (2.2 g), and dry toluene was stirred for 30 minutes. To this was added a suspension of 3-chloro-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one (6.0 g) in dry toluene (30 ml) and stirring was continued for 2 hours. Water was added and the product was extracted into chloroform. Evaporation of the solvent and crystallisation from ethanol gave the title compound (4.5 g) mp 239°-241° C.

reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | 15-crown-5 | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 1,4,7,10,13-pentaoxacyclopentadecane | O1CCOCCOCCOCCOCC1 | C10H20O5
reactant | phenol | 2.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chloro-1-(4-chlorophenyl)-1,2-dihydroquinoxalin-2-one | 6.0 g | ClC=1C(N(C2=CC=CC=C2N1)C1=CC=C(C=C1)Cl)=O | C14H8Cl2N2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | 1-(4-Chlorophenyl)-1,2-dihydro-3-phenoxyquinoxalin-2-one | 4.5 g | ClC1=CC=C(C=C1)N1C(C(=NC2=CC=CC=C12)OC1=CC=CC=C1)=O | C20H13ClN2O2
